US06878399B2
A 1000 ml three-necked round bottom flask is charged with a solution of 224.26 g (1 Mol) of 4-(2-Hydroxyethoxy)phenyl 2-hydroxy-2-propyl-ketone (Darocure® 2959) in 400 mL of THF and 114.55 g (1 mol) of methanesulfonyl chloride are added to the solution at room temperature. After cooling to 2° C., 101.2 g (1 mol) of triethylamine (TEA) and 200 mL of THF are added to the solution over a 30 min-period under stirring. Slightly exothermal reaction is observed. The reaction mixture is then filtered through a G3 glass frit filter and the TEA hydrochloride washed 2× with THF on the filter. The filtrate is evaporated at 60° C./200 mbar using a Rotavapor. The resulting yellow oil is then dissolved in 800 mL of CH2Cl2. The organic phase is washed 1× with 400 mL of deionized water, 2× with 400 mL of acidic water (pH˜1) and finally with 400 mL of deionized water. The organic phase is dried over MgSO4, filtered and concentrated to constant weight by evaporating the CH2Cl2 under reduced pressure at a Rotavapor to give crude 4-(2-mesyloxyethoxy)phenyl-2-hydroxy-2-propyl-ketone.

reactant | 4-(2-Hydroxyethoxy)phenyl 2-hydroxy-2-propyl-ketone | 1 Mol, 224.26 g | OCCOC1=CC=C(C=C1)CC(C)(O)C(=O)C(C)(CC1=CC=C(C=C1)OCCO)O | C23H30O7
reactant | methanesulfonyl chloride | 1 mol, 114.55 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1 mol, 101.2 g | C(C)N(CC)CC | C6H15N
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 4-(2-mesyloxyethoxy)phenyl-2-hydroxy-2-propyl-ketone | S(=O)(=O)(C)OCCOC1=CC=C(C=C1)CC(C)(O)C(=O)C(C)(CC1=CC=C(C=C1)OCCOS(=O)(=O)C)O | C25H34O11S2
